US08026244B2
(a) tert-butyl 4-fluoro-3-formyl-1H-indole-1-carboxylate
A mixture of 4-fluoro-1H-indole-3-carbaldehyde (WO 03/088897) (0.53 g, 3.22 mmol), potassium carbonate (2.22 g, 16.1 mmol) and Boc2O (1.76 g, 8.1 mmol) in THF (15 mL) was stirred o.n. and then evaporated in vacuo. The residue was partitioned between H2O (25 ml) and CHCl3 (3×25 ml) and the organic phase was dried over MgSO4, evaporated and purified by flash chromatography using CHCl3 giving the title compound as a solid, which was used in the next step.

reactant | 4-fluoro-1H-indole-3-carbaldehyde | 3.22 mmol, 0.53 g | FC1=C2C(=CNC2=CC=C1)C=O | C9H6FNO
reactant | potassium carbonate | 16.1 mmol, 2.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boc2O | 8.1 mmol, 1.76 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-fluoro-3-formyl-1H-indole-1-carboxylate | FC1=C2C(=CN(C2=CC=C1)C(=O)OC(C)(C)C)C=O | C14H14FNO3
